US04258049
A mixture of 23.9 g. (0.1 mole) of 3-methoxy-α-methyl-N-(2,2-dimethoxyethyl)benzylamine in 100 ml. of dry pyridine is stirred, cooled and treated with a solution of 20.2 g. (0.107 mole) of tosyl chloride in 100 ml. of dry pyridine. The mixture is stirred at 25° C. for three days, poured into 800 ml. of water and extracted with ether. The combined ether extracts are washed with dilute hydrochloric acid and then with water, dried, filtered and evaporated to yield 3-methoxy-α-methyl-N-(2,2-dimethoxyethyl)-N-tosyl-benzylamine.

reactant | 3-methoxy-α-methyl-N-(2,2-dimethoxyethyl)benzylamine | 0.1 mole | COC=1C=C(C(C)NCC(OC)OC)C=CC1 | C13H21NO3
reactant | tosyl chloride | 0.107 mole | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-methoxy-α-methyl-N-(2,2-dimethoxyethyl)-N-tosyl-benzylamine | COC=1C=C(C(C)N(S(=O)(=O)C2=CC=C(C)C=C2)CC(OC)OC)C=CC1 | C20H27NO5S
